US07671080B2
5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (3-hydroxybutyl)amide
The title compound was prepared using 5-cyano-1-(3-trifluoromethoxy-benzyl)-1H-indole-2-carboxylic acid [prepared from 3-(trifluoromethoxy)benzyl bromide and ethyl 5-cyanoindole-2-carboxylate] and 4-amino-2-butanol in a manner similar to that described in Example 11.

reactant | 5-cyano-1-(3-trifluoromethoxy-benzyl)-1H-indole-2-carboxylic acid | C(#N)C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C18H11F3N2O3
reactant | 4-amino-2-butanol | NCCC(C)O | C4H11NO
product | 5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (3-hydroxybutyl)amide | OC(CCNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F)C | C22H20F3N3O3
